US05283327
In 12 ml of 1,4-dioxane were suspended 2.15 g (4 mmole) of 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-6-chloro-2-iodopurine, 56 mg (0.08 mmole) of bis(triphenylphosphine)palladium dichloride and 15 mg (0.08 mmole) of cuprous iodide, and 1.2 ml of triethylamine and 0.75 ml of 1-nonyne were added to the suspension. The mixture was stirred and caused to react at room temperature (25° C.) for 12 hours. The reaction solution at this time had a transparent pale brown color, which was paler than those in the aforementioned (i) or (ii). After the reaction, the solution was concentrated, and 200 ml of ethyl acetate was added to the residue to obtain a solution, which was distributed and washed several times with an aqueous EDTA.2 Na solution and a saturated brine solution, respectively to remove copper ions. The organic layer was subjected to silica gel column chromatography in the same manner as in (i) to remove colored materials and other by-products and to produce 1.90 g (yield 89%) of 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-6-chloro-2-(1-nonynyl)purine as a viscous material.

reactant | 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-6-chloro-2-iodopurine | 4 mmole, 2.15 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)I | C16H16ClIN4O7
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 1-nonyne | 0.75 ml | C#CCCCCCCC | C9H16
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.08 mmole, 56 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-6-chloro-2-(1-nonynyl)purine | 1.90 g, yield 89% | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)C#CCCCCCCC | C25H31ClN4O7
